US06365602B1
A mixture containing 4-cyano-1-naphthoic acid (0.090 g, 0.45 mmol), DCM (3 mL), oxalyl chloride (0.063 g, 0.50 mmol) and DMF (approximately 5 μL) was stirred for 3 h and concentrated to provide 4-cyano-1-naphthoyl chloride as an off-white solid which was used directly. Using standard acylation conditions 4-cyano-1-naphthoyl chloride (0.090 g) was reacted with N-[(S)-2-(3,4-dichlorophenyl)-4-[4-[(S)-2-methylsulfinylphenyl]-1-piperidinyl]butyl]-N-methylamine to afford the free base (0.215 g) which was converted to the citrate salt.

reactant | 4-cyano-1-naphthoic acid | 0.45 mmol, 0.090 g | C(#N)C1=CC=C(C2=CC=CC=C12)C(=O)O | C12H7NO2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 0.50 mmol, 0.063 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | approximately 5 μL | CN(C)C=O | C3H7NO
product | 4-cyano-1-naphthoyl chloride | C(#N)C1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H6ClNO
